US07381728B2
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-hydroxyphenyl]-5-(2-pyridinyl)-2-thiophenesulfonamide (E120)
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-5-(2-pyridinyl)-2-thiophenesulfonamide (E13) (277 mg, 0.66 mmol) was dissolved in dichloromethane (5 ml) and treated with 1M boron tribromide in dichloromethane (1.8 ml, 1.8 mol) for 4.5 hours. Further 1M boron tribromide in dichloromethane (3 ml, 3 mmol) was added and the mixture stirred at room temperature overnight. Water and methanol were cautiously added and the solution basified to pH9 with saturated aqueous sodium bicarbonate solution. The precipitated solids were filtered, washed with ether and purified by mass directed autoprep HPLC to afford the title compound (E120). MS (ES+) m/e 445 [M+H]+.

reactant | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-5-(2-pyridinyl)-2-thiophenesulfonamide | 0.66 mmol, 277 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1)OC | C22H26N4O3S2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mmol, 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.8 mol, 1.8 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-hydroxyphenyl]-5-(2-pyridinyl)-2-thiophenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1)O | C21H24N4O3S2
